US04058550
A solution of 6.53 g of 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate in 100 ml of chloroform is stirred under reflux while 9.0 ml of acetic anhydride is added and for 6 hours thereafter. The solution is extracted with 2% aqueous sodium carbonate solution and water, dried, and evaporated to yield 2,3-diacetoxypropyl N-acetyl-4-(n-hexadecylamino)benzoate as a yellow oil.

reactant | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | 6.53 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
reactant | acetic anhydride | 9.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-diacetoxypropyl N-acetyl-4-(n-hexadecylamino)benzoate | C(C)(=O)N(C1=CC=C(C(=O)OCC(COC(C)=O)OC(C)=O)C=C1)CCCCCCCCCCCCCCCC | C32H51NO7
